US07485644B2
To a stirred suspension of 6-[4-(methylsulfonyl)piperazin-1-yl]pyridin-3-ol (69 g, 270 mmol), K2CO3 (112 g, 810 mmol) in acetone (1.8 L) was added 2,2,2-trifluoroethyl nonafluorobutanesulphonate and/or 2,2,2-trifluoroethyl trifluoromethanesulphonate (total 324 mmol) and the reaction stirred for 18 hours at room temperature. The reaction mixture was then filtered and the filtrate evaporated to dryness. The residue was extracted between DCM (2.5 L, 500 mL) and water (1.5 L, 300 mL), extracted with DCM (500 mL), dried (MgSO4) and filtered. Concentrated in vacuo, diluting with EtOH, to a low volume, filtered and dried to give 1-(methylsulfonyl)-4-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]piperazine as an off white solid (62 g, 183 mmol, 68%).

reactant | 6-[4-(methylsulfonyl)piperazin-1-yl]pyridin-3-ol | 270 mmol, 69 g | CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=N1)O | C10H15N3O3S
reactant | K2CO3 | 810 mmol, 112 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,2,2-trifluoroethyl nonafluorobutanesulphonate | FC(C(C(C(S(=O)(=O)OCC(F)(F)F)(F)F)(F)F)(F)F)(F)F | C6H2F12O3S
reactant | 2,2,2-trifluoroethyl trifluoromethanesulphonate | 324 mmol | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
solvent | acetone | 1.8 L | CC(=O)C | C3H6O
product | 1-(methylsulfonyl)-4-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]piperazine | CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=C1)OCC(F)(F)F | C12H16F3N3O3S
